US09403818B2
Preparation of methyl 8-(3-cyclopropyl-1H-indazol-5-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(3-cyclopropyl-1H-indazol-5-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A′ from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (75 mg, 0.26 mmol) and tert-butyl 3-cyclopropyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole-1-carboxylate (157.9 mg, 0.41 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as a yellow solid (84 mg, 60%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.26 mmol, 75 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | tert-butyl 3-cyclopropyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole-1-carboxylate | 0.41 mmol, 157.9 mg | C1(CC1)C1=NN(C2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C | C21H29BN2O4
product | methyl 8-(3-cyclopropyl-1H-indazol-5-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 84 mg, 60% | C1(CC1)C1=NNC2=CC=C(C=C12)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C25H23N3O3
